US05358938
1-(3 -Methoxy-4-propoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanediol (compound 118, FIG. 3)
To a solution of 1-(3-methoxy-4-propoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-butane-1,4-dione (11.53 g, 25 mmole) in 350 mL of methanol and 250 mL of tetrahydrofuran was added dropwise a solution of sodium borohydride (3.076 g, 81.34 mmol) in 140 mL of water. After the addition was completed, the mixture was stirred at room temperature for 3 hours, quenched with water and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered and evaporated to provide a foam (11.53 g, 99.24%). 1H NMR (CDCl3): 1.05 (t, 3H), 1.80-1.95 (m, 6H), 3.80-3.98 (m, 12H), 4.1 (t, 2H), 4.72 (m, 2H), 6.6 (s, 2H), 7.15 (s, 1H), 7.35 (s, 1H).

reactant | 1-(3-methoxy-4-propoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-butane-1,4-dione | 25 mmole, 11.53 g | COC=1C=C(C=C(C1OCCC)[N+](=O)[O-])C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C23H27NO9
reactant | sodium borohydride | 81.34 mmol, 3.076 g | [BH4-].[Na+]
solvent | methanol | 350 mL | CO | CH4O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | water | 140 mL | O | H2O
product | 1-(3 -Methoxy-4-propoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanediol | 11.53 g, 99.24% | COC=1C=C(C=C(C1OCCC)[N+](=O)[O-])C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C23H31NO9
